US09284323B2
A solution of (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,5-dimethylnaphthalen-2-yl)acetate (0.103 g, 0.312 mmol) in DCM (3 mL) cooled to 0° C. was treated with diisopropylethylamine (0.16 mL, 0.94 mmol) and trifluoromethanesulfonic anhydride (0.08 mL, 0.47 mmol) to produce a dark red-orange solution. After 1 hour, the reaction mixture is loaded directly onto silica gel and purified via Yamazen column chromatography to afford (S)-ethyl 2-tert-butoxy-2-(3,5-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate that is contaminated with a small amount of an inseparable, uncharacterized side product. 1H-NMR: 400 MHz, (CDCl3) δ: 7.94 (d, J=8.8 Hz, 1H); 7.84 (s, 1H); 7.47 (dd, J=8.8, 7.2 Hz, 1H); 7.39 (d, J=7.2 Hz, 1H); 5.75 (s, 1H); 4.26-4.08 (m, 2H); 2.70 (s, 3H); 2.60 (s, 3H); 1.22 (s, 9H); 1.18 (t, J=7.2 Hz, 3H).

reactant | (S)-ethyl 2-tert-butoxy-2-(1-hydroxy-3,5-dimethylnaphthalen-2-yl)acetate | 0.312 mmol, 0.103 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)O | C20H26O4
reactant | diisopropylethylamine | 0.94 mmol, 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.47 mmol, 0.08 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 2-tert-butoxy-2-(3,5-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
